US07598010B2
25.1 g (61.5 mmol) of 4,4′-diiodobiphenyl, 2.14 g of poly(ethylene glycol) PEG-6000 that was available from Wako Pure Chemical Industries, Ltd., 17.1 g (0.124 mol) of potassium carbonate and 15.7 g (247 mmol) of powdered copper were added to 32.4 g (148 mmol) of N-phenyl-2-naphthylamine. It was heated at 200 degrees Centigrade. It was determined for tracing by the high-speed liquid chromatography. And it was stirred and refluxed for 12 hours until no peaks of starting materials and intermediates were determined. DMF and water were added thereto to disperse. It was filtrated and washed with water. Precipitated crystals were purified by silica gel column chromatography to obtain 26.2 g of beta-NPD that is represented by Compound Example 5 at 72.4% yield.

reactant | 4,4′-diiodobiphenyl | 61.5 mmol, 25.1 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.124 mol, 17.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-phenyl-2-naphthylamine | 148 mmol, 32.4 g | C1(=CC=CC=C1)NC1=CC2=CC=CC=C2C=C1 | C16H13N
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | copper | 247 mmol, 15.7 g | [Cu] | Cu
solvent | water | O | H2O
product | beta-NPD | 26.2 g, 72.4% yield | C1=CC=C(C=C1)N(C2=CC=C(C=C2)C3=CC=C(C=C3)N(C4=CC=CC=C4)C5=CC6=CC=CC=C6C=C5)C7=CC8=CC=CC=C8C=C7 | C44H32N2
